US06576752B1
Synthesis of N-[11-(4,4′-Dimethoxytrityloxy)-3,6,9-trioxaundecanyloxy]phthalimide (5)
N-hydroxyphthalimide (0.7 g, 4.3 mmol) and triphenylphosphine (1.1 g, 4.2 mmol) were added to a solution of 11-(4,4′-dimethoxytrityloxy)-3,6,9-trioxaundecanol (2.0 g, 4.0 mmol) in THF (60 mL). Diethylazodicarboxylate (DEAD, 0.7 mL, 3.6 mmol) was added dropwise and the stirring was continued overnight at ambient temperature. The reaction mixture was evaporated to an oil, applied onto a silica gel column, and eluted with a linear gradient from neat CH2Cl2 to a 97:3 (v/v) mixture of CH2Cl2 and MeOH. The purification was repeated to yield 2.1 g (80%) of the title compound.

reactant | N-hydroxyphthalimide | 4.3 mmol, 0.7 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 4.2 mmol, 1.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 11-(4,4′-dimethoxytrityloxy)-3,6,9-trioxaundecanol | 4.0 mmol, 2.0 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OCCOCCOCCOCCO)C=C1 | C29H36O7
reactant | Diethylazodicarboxylate | 3.6 mmol, 0.7 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | N-[11-(4,4′-Dimethoxytrityloxy)-3,6,9-trioxaundecanyloxy]phthalimide | 2.1 g, 80% | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OCCOCCOCCOCCON2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C37H39NO9
